US09034850B2
Step E. ((R)-2-{3-(2,6-difluoro-benzyl)-5-[2-(2-hydroxy-ethylamino)-acetylamino]-2,6-dioxo-3,6-dihydro-2H-pyrimidin-1-yl}-1-phenyl-ethyl)-carbamic acid tert-butyl ester
To a solution of {(R)-2-[5-(2-chloro-acetylamino)-3-(2,6-difluoro-benzyl)-2,6-dioxo-3,6-dihydro-2H-pyrimidin-1-yl]-1-phenyl-ethyl}-carbamic acid tert-butyl ester (44 mg, 0.08 mmol) in acetonitrile (2 mL) were added triethylamine(30 μl, 0.22 mmol) and 2-amino-ethanol (60 μl, 0.96 mmol) in that order. The solution was stirred at 60° C. for 4 hrs, cooled to room temperature, and washed with an aqueous saturated sodium bicarbonate solution to separate an organic layer. The organic layer was concentrated, and the residue was purified using silica gel chromatography (eluent: dichloromethane/methanol, 10/1) and dried in a vacuum to afford 37 mg of the compound as a colorless oil (yield 80%).

reactant | {(R)-2-[5-(2-chloro-acetylamino)-3-(2,6-difluoro-benzyl)-2,6-dioxo-3,6-dihydro-2H-pyrimidin-1-yl]-1-phenyl-ethyl}-carbamic acid tert-butyl ester | 0.08 mmol, 44 mg | C(C)(C)(C)OC(N[C@@H](CN1C(N(C=C(C1=O)NC(CCl)=O)CC1=C(C=CC=C1F)F)=O)C1=CC=CC=C1)=O | C26H27ClF2N4O5
reactant | triethylamine | 0.22 mmol, 30 μl | C(C)N(CC)CC | C6H15N
reactant | 2-amino-ethanol | 0.96 mmol, 60 μl | NCCO | C2H7NO
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | ((R)-2-{3-(2,6-difluoro-benzyl)-5-[2-(2-hydroxy-ethylamino)-acetylamino]-2,6-dioxo-3,6-dihydro-2H-pyrimidin-1-yl}-1-phenyl-ethyl)-carbamic acid tert-butyl ester | 37 mg, yield 80% | C(C)(C)(C)OC(N[C@@H](CN1C(N(C=C(C1=O)NC(CNCCO)=O)CC1=C(C=CC=C1F)F)=O)C1=CC=CC=C1)=O | C28H33F2N5O6
